US05719278
N-[4-[(4,5-Dihydropyrazolo[3,4-d]pyrido[3,2-b]azepin-6(1H)-yl)carbonyl]phenyl]-5-fluoro-2-methylbenzamide
As described for Example 2, 2 mmol of 6-(4-aminobenzoyl)-1,4,5,6-tetrahydropyrazolo[3,4-d]pyrido-[3,2-b]azepine is reacted with 2.2 mmol of 5-fluoro-2-methylbenzoyl chloride to give the product as a solid.

reactant | 6-(4-aminobenzoyl)-1,4,5,6-tetrahydropyrazolo[3,4-d]pyrido-[3,2-b]azepine | 2 mmol | NC1=CC=C(C(=O)N2C3=C(C4=C(CC2)C=NN4)N=CC=C3)C=C1 | C17H15N5O
reactant | 5-fluoro-2-methylbenzoyl chloride | 2.2 mmol | FC=1C=CC(=C(C(=O)Cl)C1)C | C8H6ClFO
product | N-[4-[(4,5-Dihydropyrazolo[3,4-d]pyrido[3,2-b]azepin-6(1H)-yl)carbonyl]phenyl]-5-fluoro-2-methylbenzamide | N1N=CC2=C1C1=C(N(CC2)C(=O)C2=CC=C(C=C2)NC(C2=C(C=CC(=C2)F)C)=O)C=CC=N1 | C25H20FN5O2
